US08563717B2
6-Amino-2-(butyloxy)-9-[3-(2-piperidinyl)propyl]-7,9-dihydro-8H-purin-8-one
2-(Butyloxy)-8-(methyloxy)-9-[3-(2-piperidinyl)propyl]-9H-purin-6-amine (41.89 mg, 0.116 mmol) in methanol (3 ml) was treated with 4 molar HCl solution in 1,4-dioxane (0.722 mL, 2.89 mmol) and stirred at ambient temperature in a capped vial overnight. The clear reaction solution was blown down under N2 and then dissolved in 1 ml 1:1 DMSO:MeOH and purified by MDAP (Method A). The appropriate fraction was evaporated under N2 in a Radleys blow down unit to afford the title compound as a white solid (31.1 mg).

reactant | 2-(Butyloxy)-8-(methyloxy)-9-[3-(2-piperidinyl)propyl]-9H-purin-6-amine | 0.116 mmol, 41.89 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCC1NCCCC1)OC)N | C18H30N6O2
reactant | HCl | 4 molar | Cl | ClH
reactant | 1,4-dioxane | 2.89 mmol, 0.722 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
solvent | DMSO | CS(=O)C | C2H6OS
product | 6-Amino-2-(butyloxy)-9-[3-(2-piperidinyl)propyl]-7,9-dihydro-8H-purin-8-one | 31.1 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCC1NCCCC1)=O | C17H28N6O2
